US07691879B2
Step D (+/−)-3-cyano-6-methoxy-4-pyridin-2-yl-N-(tetrahydrofuran-3-yl)isoquinoline-1-carboxamide
DMF was added to a vial containing 3-cyano-6-methoxy-4-pyridin-2-ylisoquinoline-1-carboxylic acid (0.028 g, 0.092 mmol), tetrahydrofuran-3-aminium chloride ( 0.068 g, 0.550 mmol), EDC (0.105 g, 0.550 mmol) and HOAT (0.0437 g, 0.275 mmol). DIEA (0.071 g, 0.550 mmol) was added to this mixture and stirred at rt overnight. Partitioned between half-saturated bicarb and EtOAc. The aqueous layer was extracted with EtOAc (3×). The combined organic layers were dried over Na2SO4 and concentrated, then purified by reverse phase HPLC to give a tan solid (0.019 g, 55%).

reactant | 3-cyano-6-methoxy-4-pyridin-2-ylisoquinoline-1-carboxylic acid | 0.092 mmol, 0.028 g | C(#N)C=1N=C(C2=CC=C(C=C2C1C1=NC=CC=C1)OC)C(=O)O | C17H11N3O3
reactant | tetrahydrofuran-3-aminium chloride | 0.550 mmol, 0.068 g | [Cl-].O1CC(CC1)[NH3+]
reactant | EDC | 0.550 mmol, 0.105 g
reactant | HOAT | 0.275 mmol, 0.0437 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIEA | 0.550 mmol, 0.071 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | (+/−)-3-cyano-6-methoxy-4-pyridin-2-yl-N-(tetrahydrofuran-3-yl)isoquinoline-1-carboxamide | 0.019 g, 55% | C(#N)C=1N=C(C2=CC=C(C=C2C1C1=NC=CC=C1)OC)C(=O)NC1COCC1 | C21H18N4O3
